US08236976B2
Preparation of (3-Butyl-oxiranyl)-p-tolyl-methanol (23)
The product was prepared by General procedure T using 89 mg (0.55 mmol) Cy2BH, 64 μL (0.55 mmol) 1-hexyne, 0.78 mL (1.55 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, 59 μL (0.50 mmol) p-tolualdehyde, 100 μL (0.10 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 21 μL (0.10 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl, acetate in hexanes) to afford the title compound in 83% yield (92 mg, 0.42 mmol). threo-diastereomer: Colorless oil. [α]D20=−18.7 (c=0.31, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.81 (t, 3H, J=7.1 Hz), 1.20-1.34 (m, 4H), 1.46-1.51 (m, 2H), 2.25 (br d, 1H, J=4.1 Hz), 2.30 (s, 3H), 2.90 (dd, 1H, J=5.2, 2.0 Hz), 2.97 (dt, 1H, J=5.5, 1.8 Hz), 4.42 (br t, 1H), 7.13 (d, 2H, J=7.7 Hz), and 7.23 (d, 2H, J=7.9 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 21.1, 22.4, 28.0, 31.2, 57.3, 62.2, 73.8, 126.1, 126.4, 129.3, and 137.5 ppm; IR (neat): 3428, 3051, 2961, 2928, 2860, 2356, 1646, 1512, 1462, 1383, 1260, and 1192 cm−1; HRMS-CI m/z 202.1362 [(M−H2O)+; calcd for C14H18O: 202.1358]. erythro-diastereomer: Colorless oil. [α]D20=−58.4 (c=0.25, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.79 (t, 3H, J=7.1 Hz), 1.19-1.33 (m, 4H), 1.43-1.50 (m, 2H), 2.15 (br s, 1H), 2.28 (s, 3H), 2.89 (t, 1H, J=2.5 Hz), 3.10 (dt, 1H, J=5.6, 1.5 Hz), 4.77 (br s, 1H), 7.11 (d, 2H, J=7.8 Hz), and 7.19 (d, 2H, J=8.1 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 21.2, 22.4, 28.0, 31.2, 55.2, 61.3, 70.9, 126.4, 129.3, 136.7, and 138.0 ppm; IR (neat): 3430, 3028, 2950, 2916, 2860, 2356, 2334, 1680, 1607, 1512, 1461, 1383, and 1265 cm−1; HRMS-CI m/z 202.1362 [(M−H2O)+; calcd for C14H18O: 202.1358].

reactant | Cy2BH | 0.55 mmol, 89 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.55 mmol, 64 μL | C#CCCCC | C6H10
reactant | Et2Zn | 1.55 mmol, 2.0 M, 0.78 mL | [Zn](CC)CC
reactant | p-tolualdehyde | 0.50 mmol, 59 μL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | (+)-DIPT | 0.10 mmol, 21 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.10 mmol, 1.0 M, 100 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-Butyl-oxiranyl)-p-tolyl-methanol | 83% yield | C(CCC)C1C(O1)C(O)C1=CC=C(C=C1)C | C14H20O2
